US05292760
4-Chloro-N-methyl-α-(3-methyl-2-thienyl)-2-nitrobenzeneethanamine hydrochloride
To a cooled (-60° C.) solution of 0.06 g of 2-(4-chloro-2-nitrophenyl)-1-(3-methyl-2-thienyl)ethanone in 270 ml of toluene, 70 ml of methyl amine was added under a dry-ice-isopropanol condenser. The mixture was stirred for 0.5 hr. A solution of 4.6 ml of titanium tetrachloride in 46 ml of toluene was added dropwise. The dry-ice-isopropanol condenser was removed, a water condenser was attached, and the reaction was heated at an internal temperature of 75° C. for 2 hrs and stirred overnight at room temperature. The mixture was filtered and the filtrate was evaporated. To a solution of the residue in 250 ml of anhydrous methanol, ethereal hydrogen chloride was added dropwise until a pH of 3-5 was attained. A solution of 1.89 g of sodium cyanoborohydride in 25 ml of anhydrous methanol was added, and the mixture was stirred for 0.5 hr. An additional 1.0 g of sodium cyanoborohydride was added, and the mixture was stirred for one hr. The reaction was kept in the acidic pH range by periodic addition of ethereal hydrogen chloride. The solvent was evaporated, the residue was basified with 10% sodium hydroxide solution and extracted with ether. The combined extracts were washed with water, dried over anhydrous sodium sulfate, and concentrated. Purification was accomplished by preparative HPLC (Waters Associates Prep LC/System 500A, silica gel, 200 ml/min flow rate eluted with ethyl acetate and monitored by a Gow-Mac Model 80-800 uV detector. The appropriate fractions were collected and concentrated, and the residue was dissolved in ether and ethereal-hydrogen chloride was added to afford 5.6 g of product, mp 195°-197° C.

reactant | 2-(4-chloro-2-nitrophenyl)-1-(3-methyl-2-thienyl)ethanone | 0.06 g | ClC1=CC(=C(C=C1)CC(=O)C=1SC=CC1C)[N+](=O)[O-] | C13H10ClNO3S
reactant | methyl amine | 70 ml | CN | CH5N
solvent | toluene | 270 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 46 ml | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetrachloride | 4.6 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4-Chloro-N-methyl-α-(3-methyl-2-thienyl)-2-nitrobenzeneethanamine hydrochloride | 5.6 g | Cl.ClC1=CC(=C(C=C1)CC(NC)C=1SC=CC1C)[N+](=O)[O-] | InChI=1S/C14H15ClN2O2S.ClH/c1-9-5-6-20-14(9)12(16-2)7-10-3-4-11(15)8-13(10)17(18)19;/h3-6,8,12,16H,7H2,1-2H3;1H
